US04931580
Preparation of 1-(4'-chlorobenzenesulfonyl)-3-methoxycarbonyl urea
Methyl carbamate (43.0 grams, 0.57 moles) was stirred in 500 milliliters of dry toluene. 4-chlorobenzenesulfonyl isocyanate (125 grams, 0.57 moles) was added dropwise. An exothermic reaction occurred. The reaction mixture was kept at 80° C. for 11/2hours. It was then cooled and the percipitate removed by filtration. The filtered material was washed with toluene and dried. There was obtained 159 grams of the title product, m.p. 174°-175° C.

reactant | Methyl carbamate | 0.57 moles, 43.0 grams | C(N)(OC)=O | C2H5NO2
reactant | 4-chlorobenzenesulfonyl isocyanate | 0.57 moles, 125 grams | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
solvent | toluene | 500 milliliters | C1(=CC=CC=C1)C | C7H8
product | 1-(4'-chlorobenzenesulfonyl)-3-methoxycarbonyl urea | 159 grams | ClC1=CC=C(C=C1)S(=O)(=O)NC(=O)NC(=O)OC | C9H9ClN2O5S
